US08124606B2
(S)-ethyl 1-(5-bromo-3-nitropyridin-2-yl)pyrrolidine-2-carboxylate (8.6 g, 24.99 mmol) was dissolved in dichloromethane (Volume: 125 ml) and to this solution was added triphenyl phosphite (0.078 g, 0.250 mmol), ammonium metavanadate (0.175 g, 1.499 mmol) and Pt/C (5% wt.) (0.975 g, 0.250 mmol). The reaction mixture was hydrogenated at 80 psi at 25° C. for 4 h. The reaction mixture was filtered through celite using DCM and MeOH to complete the transfer and wash the celite plug. The combined filtrates and washes were concentrated in vacuo and crystallized with ethyl ether (75 mL). The precipitate was filtered and dried in vacuum to afford (S)-3-bromo-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (2.87 g, 10.70 mmol, 42.8% yield) as a pale beige solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-2.03 (m, 3H) 2.11-2.26 (m, 1H) 3.27-3.47 (m, 1H) 3.49-3.63 (m, 1H) 4.01-4.11 (m, 1H) 7.06 (d, J=2.27 Hz, 1H) 7.77 (d, J=2.02 Hz, 1H) 10.57 (s, 1H). [M+H] calc'd for C10H10BrN3O, 268. found, 268.

reactant | (S)-ethyl 1-(5-bromo-3-nitropyridin-2-yl)pyrrolidine-2-carboxylate | 24.99 mmol, 8.6 g | BrC=1C=C(C(=NC1)N1[C@@H](CCC1)C(=O)OCC)[N+](=O)[O-] | C12H14BrN3O4
reactant | triphenyl phosphite | 0.250 mmol, 0.078 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 1.499 mmol, 0.175 g | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 0.250 mmol, 0.975 g | [Pt] | Pt
product | (S)-3-bromo-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 10.70 mmol, 2.87 g, 42.8% yield | BrC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C10H10BrN3O
